US07902223B2
800 mg of rhodium(II) acetate (dimer) are added to a solution of 5.19 g (36.0 mmol) of 7-aminoisoquinoline and 5.47 g (35.0 mmol) of methyl 2-diazo-4-methylpentanoate in 200 ml of toluene, and the mixture is heated at 80° C. for 12 hours. The cooled reaction mixture is filtered, and the filtrate is evaporated. The residue is chromatographed on a silica-gel column with ethyl acetate as eluent, giving methyl 2-(isoquinolin-7-ylamino)-4-methylpentanoate as a yellowish solid; ESI 273.

reactant | 7-aminoisoquinoline | 36.0 mmol, 5.19 g | NC1=CC=C2C=CN=CC2=C1 | C9H8N2
reactant | methyl 2-diazo-4-methylpentanoate | 35.0 mmol, 5.47 g | [N+](=[N-])=C(C(=O)OC)CC(C)C | C7H12N2O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium(II) acetate | 800 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | methyl 2-(isoquinolin-7-ylamino)-4-methylpentanoate | C1=NC=CC2=CC=C(C=C12)NC(C(=O)OC)CC(C)C | C16H20N2O2
